US04564613
8-Methyl-6-phenyl-6,7,8,9-tetrahydro-1H-pyrido[4,3-g]-indole-2,3-dione
17.5 g (0.0566 mol) of N-methyl-4-phenyl-8-(hydroxyiminoacetylamino)isoquinoline were added in small portions to 43.75 ml of concentrated H2SO4 at 45° C. and the mixture was warmed at 45° C. for 75 minutes. It was cooled to room temperature and poured onto 450 g of ice. A pH of 6.8 was then established with 2N NaOH. The precipitate which had separated out was filtered off with suction and washed with water. After drying, 15.3 g (92.5% of theory) of orange-colored crude product are obtained. (Melting point of the pure product=about 188° C., decomposition).

reactant | N-methyl-4-phenyl-8-(hydroxyiminoacetylamino)isoquinoline | 0.0566 mol, 17.5 g | CN1CC2=C(C=CC=C2C(=C1)C1=CC=CC=C1)NC(C=NO)=O | C18H17N3O2
reactant | H2SO4 | 43.75 ml | OS(=O)(=O)O | H2O4S
reactant | NaOH | 2N | [OH-].[Na+]
product | 8-Methyl-6-phenyl-6,7,8,9-tetrahydro-1H-pyrido[4,3-g]-indole-2,3-dione | CN1CC=2C(=CC=C3C(C(NC23)=O)=O)C(C1)C1=CC=CC=C1 | C18H16N2O2
